US06420385B1
3-Methyl-2-methylthio-5-(3-methylphenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone:
A solution of potassium t-butoxide (1M in t-butanol, 11, 1 mol) was added dropwise to a stirring solution of ethyl 3-methylphenyl acetate (178 g, 1 mol) in N,N-dimethylformamide (2 l). A solution of 4-cyanopyridine (104.11 g, 1 mol) in N,N-dimethylformamide (1 l) was pumped into the reaction mixture over a period of about 4.5 h. The mixture was then stirred at room temperature for 3 h, before the dropwise addition of a solution of methyl isothiocyanate (68.4 ml, 1 mol) in N,N-dimethylformamide (50 ml) over a period of 10 min. After stirring for 1 h at room temperature, the reaction mixture was cooled to 3° C. and methyl iodide (62.3 ml, 1 mol) was added dropwise over a period of 10 min. Stirring was continued at room temperature overnight. The mixture was cooled to 3° C. and water (4 l) was pumped into the reaction mixture over a period of 6 h. The precipitate was removed by filtration, washed with water and dried in a vacuum oven to give the title compound. MS (m/z).: 324 (M+H)+; C18H17N3OS requir. 323.4.

reactant | potassium t-butoxide | 1 mol, 1M | CC(C)([O-])C.[K+]
reactant | 4-cyanopyridine | 1 mol, 104.11 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | methyl isothiocyanate | 1 mol, 68.4 ml | CN=C=S | C2H3NS
reactant | methyl iodide | 1 mol, 62.3 ml | CI | CH3I
reactant | N,N-dimethylformamide | 2 l | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 1 l | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 4 l | O | H2O
product | 3-Methyl-2-methylthio-5-(3-methylphenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone | CN1C(=NC(=C(C1=O)C1=CC(=CC=C1)C)C1=CC=NC=C1)SC | C18H17N3OS
